US09284278B2
N-Benzothiazol-2-yl-benzamide
In a 100 ml three-necked flask equipped with magnetic stirrer, thermometer, dropping funnel and nitrogen inlet, 5.34 g (35.6 mmol) of 2-amino-benzothiazole are dissolved in 50 ml of pyridine and cooled to 3° C. using an ice bath. 5.0 g of benzoylchloride (35.6 mmol) are added dropwise within 20 minutes, keeping the temperature within the mixture below 5° C. Stirring is continued for another 15 minutes, then the mixture is poured on 500 ml of water. The white suspension is stirred for 1 hour, filtered, the white residue is washed 3 times with 100 ml of water, respectively, and dried over night at 50° C. and 30 mbar. 7.5 g crude product obtained are purified by flash-chromatography using hexane/ethylacetate 3:1 (v/v), yielding 5.8 g of the title product.

reactant | 2-amino-benzothiazole | 35.6 mmol, 5.34 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | benzoylchloride | 35.6 mmol, 5.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 500 ml | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | N-Benzothiazol-2-yl-benzamide | 5.8 g | S1C(=NC2=C1C=CC=C2)NC(C2=CC=CC=C2)=O | C14H10N2OS
